US06281221B1
Preparation of the precursor 2,2-dimethyl-1,3-dioxan-5-ylamine
6.1 g (47 mmol) of 2,2-dimethyl-1,3-dioxan-5-one (D. Enders, B. Bockstiegel, Synthesis 1989, 493, incorporated herein by reference) were subjected to reductive amination in 50 ml of ammonia—saturated methanol in an autoclave at 50° C. under a hydrogen pressure of 100 bar, using Raney nickel as the catalyst. After the catalyst had been filtered off and the filtrate concentrated, 4.8 g of a brown oil were obtained, this being further reacted without purification.

reactant | 2,2-dimethyl-1,3-dioxan-5-one | 47 mmol, 6.1 g | CC1(OCC(CO1)=O)C | C6H10O3
reactant | ammonia | 50 ml | N | H3N
catalyst | Raney nickel | [Ni] | Ni
product | 2,2-dimethyl-1,3-dioxan-5-ylamine | 4.8 g | CC1(OCC(CO1)N)C | C6H13NO2
